datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:81](C)(C)/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[Si:81](C)(C)[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCCC[C+:11]2[C:62]23C4[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CN(C)C1=CC=C(C[C:10]2([C:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33].[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[C:20]1(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[CH:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CC1=CC=[C:10]([C:20](C)(C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C-:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1.C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1>>C1=CC=C([C:10]([CH2:20][C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1 10=20;20,21=21"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[C:10]([C:11]#[N:12])([S:20]C(F)(F)F)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([C:10]([C:11]#[N:12])([S:61](C3=CC=CC=C3)(=[O:62])=[O:72])[C:81]3=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]3)[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Ge:11](CCCC)(CCCC)[H:10].O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CCCC[Ge+:11](CCCC)CCCC.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([S:10][CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
